US08703953B2
To a stirred solution of tert-butyl(4-(4-chloro-2-fluorophenyl)-3-formylpyridin-2-yl)carbamate (0.9 g, 2.57 mmol) in CH2Cl2 (15 mL) was added TFA (3.95 mL, 51.3 mmol) and the reaction mixture was stirred at room temperature for 3 h. The reaction was quenched by addition of saturated aqueous sodium bicarbonate solution (15 mL) and extracted with CH2Cl2 (2×15 mL). The combined organic extracts were washed with brine (1×15 mL), dried over sodium sulfate and concentrated under reduced pressure. The crude 2-amino-4-(4-chloro-2-fluorophenyl)nicotinaldehyde (0.6 g, 2.40 mmol, 41% yield) was carried into the next step without further purification. LCMS (ESI) m/e 251.0 [(M+H)+, calcd for C12H9ClFN2O 251.0]; LC/MS retention time (Method C): tR=1.67 min.

reactant | tert-butyl(4-(4-chloro-2-fluorophenyl)-3-formylpyridin-2-yl)carbamate | 2.57 mmol, 0.9 g | C(C)(C)(C)OC(NC1=NC=CC(=C1C=O)C1=C(C=C(C=C1)Cl)F)=O | C17H16ClFN2O3
reactant | TFA | 51.3 mmol, 3.95 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-4-(4-chloro-2-fluorophenyl)nicotinaldehyde | 2.40 mmol, 0.6 g, 41% yield | NC1=C(C=O)C(=CC=N1)C1=C(C=C(C=C1)Cl)F | C12H8ClFN2O
